### PR TITLE
SKI Combinatory Logic

### PR DESCRIPTION
**Pull request by thomaskwaring**
This pull request adds the directory `Cslib/Computability/CombinatoryLogic` containing a development of [combinatory logic](https://en.m.wikipedia.org/wiki/Combinatory_logic) in the ["SKI basis"](https://en.m.wikipedia.org/wiki/SKI_combinator_calculus).

### Files

- `CombinatoryLogic/Defs.lean` : defines the type of SKI expressions, and its operational semantics, built on the relation `( . ⇒ . ) : SKI → SKI → Prop` of single step reduction.
-  `CombinatoryLogic/Basic.lean` : develops a ["bracket abstraction" algorithm](https://www.cantab.net/users/antoni.diller/brackets/intro.html), turning an `SKI.Polynomial`, a `SKI` term with "holes", into a closed `SKI` expression. This is used to define standard combinators, Church booleans and pairs.
- `CombinatoryLogic/Confluence.lean` : proves the [Church-Rosser theorem](https://en.wikipedia.org/wiki/Church%E2%80%93Rosser_theorem), that reduction on SKI terms is confluent.
- `CombinatoryLogic/Recursion.lean` : develops partial recursion on Church numerals, roughly following [the Mathlib development](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Computability/Partrec.html) (see also [Formalizing Computability Theory via Partial Recursive Functions](https://doi.org/10.4230/LIPIcs.ITP.2019.12), Carneiro, 2019).

### Notes

- I have introduced notation for application between SKI terms `f ⬝ x` (note that this is "\cd"), single-step reduction `x ⇒ y` and multi-step reduction `x ⇒* y` — I explained my reasoning on Zulip: ([#general > Notation for terms/processes in CS calculi @ 💬](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Notation.20for.20terms.2Fprocesses.20in.20CS.20calculi/near/528590111). This is of-course flexible, and could be scoped if appropriate.
- I added the file `Cslib/Utils/Relation.lean`, for utilities related to relations (qua `_ → _ → Prop`) — the only part that ended up useful was the theorem `church_rosser_of_diamond`, which is a useful specialisation of Mathlib's `Relation.church_rosser`.
- I've added a sketch of a possible extension in the header to `Recursion.lean`: I'm not sure if and when I'll get to this, but I think it would be interesting!

Edits & general advice are very welcome & appreciated! This is my first time contributing to a lean repository :-))

### CODE REVIEW

File: Cslib/Computability/CombinatoryLogic/Recursion.lean [hunk 1]
```diff
@@ -0,0 +1,396 @@
...
+/-! ### Primitive recursion -/
+
+def IsZeroPoly : SKI.Polynomial 1 := &0 ⬝' (K ⬝ FF) ⬝' TT
+def IsZero : SKI := IsZeroPoly.toSKI
+theorem isZero_def (a : SKI) : IsZero ⬝ a ⇒* a ⬝ (K ⬝ FF) ⬝ TT := by
+  have : _ := IsZeroPoly.toSKI_correct [a] (by simp)
+  simp_rw [applyList] at this
+  assumption
+theorem isZero_correct (n : Nat) (a : SKI) (h : IsChurch n a) :
+    is_bool (n = 0) (IsZero ⬝ a) := by
```
Comment (chenson2018) [inline Cslib/Computability/CombinatoryLogic/Recursion.lean]: This doesn't build, some typos here? Maybe you mean to use `IsBool` and `isBool_trans`?

File: .DS_Store
Comment (fmontesi) [inline .DS_Store:1]: Remove

File: Cslib/.DS_Store
Comment (fmontesi) [inline Cslib/.DS_Store:1]: Remove

File: Cslib/Computability/CombinatoryLogic/Recursion.lean (hunk 1 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Recursion.lean]: Fixed! that was it, I changed the name to match Mathlib style but apparently not everywhere, thanks

File: Cslib/Computability/CombinatoryLogic/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,398 @@
...
+  | SKI.Polynomial.var i => l[i]
+  | SKI.Polynomial.ap Γ Δ => (Γ.eval l hl) ⬝ (Δ.eval l hl)
+
+/-- A polynomial with no free variables is a term -/
+def Polynomial.varFreeToSKI (Γ : SKI.Polynomial 0) : SKI := Γ.eval [] (by trivial)
+
+/-- Inductively define a polynomial `Γ'` so that (up to the fact that we haven't
+defined reduction on polynomials) `Γ' ⬝ t ⇒* Γ[xₙ ← t]`. -/
+def Polynomial.elimVar {n : Nat} (Γ : SKI.Polynomial (n+1)) : SKI.Polynomial n :=
+  match Γ with
```
Comment (tristan-f-r) [inline Cslib/Computability/CombinatoryLogic/Basic.lean]: Definitions whose last parameter(s) is matched can be shrunk as so (when its clear what the last parameters should be named as):
```suggestion
def Polynomial.elimVar {n : Nat} : SKI.Polynomial (n+1) → SKI.Polynomial n
```

File: Cslib/Computability/CombinatoryLogic/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,162 @@
...
+
+The setup of SKI combinatory logic is standard, see for example:
+- <https://en.m.wikipedia.org/wiki/SKI_combinator_calculus>
+- <https://en.m.wikipedia.org/wiki/Combinatory_logic>
+-/
+
+/-- An SKI expression is built from the primitive combinators `S`, `K` and `I`, and application. -/
+inductive SKI where
+  /-- `S`-combinator, with semantics $λxyz.xz(yz) -/
+  | S
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Defs.lean:38]: You can de-indent these.

File: Cslib/Computability/CombinatoryLogic/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,162 @@
...
+  /-- `K`-combinator, with semantics $λxy.x$ -/
+  | K
+  /-- `I`-combinator, with semantics $λx.x$ -/
+  | I
+  /-- Application $x y ↦ xy$ -/
+  | ap : SKI → SKI → SKI
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Defs.lean]: In the other calculi we call this `app`

File: Cslib/Computability/CombinatoryLogic/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,162 @@
...
+namespace SKI
+
+/-- Notation for application between SKI terms -/
+infixl:100 " ⬝ " => ap
+
+/-- Apply a term to a list of terms -/
+def applyList (f : SKI) (xs : List SKI) : SKI := List.foldl (. ⬝ .) f xs
+
+lemma applyList_concat (f : SKI) (ys : List SKI) (z : SKI) :
+    f.applyList (ys ++ [z]) = f.applyList ys ⬝ z := by
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Defs.lean:56]: Do you mean ++? You could also call `concat z`

File: Cslib/Computability/CombinatoryLogic/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,162 @@
...
+  /-- `I`-combinator, with semantics $λx.x$ -/
+  | I
+  /-- Application $x y ↦ xy$ -/
+  | ap : SKI → SKI → SKI
+deriving Repr, DecidableEq
+
+namespace SKI
+
+/-- Notation for application between SKI terms -/
+infixl:100 " ⬝ " => ap
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Defs.lean]: Please make all notation locally scoped. (Although this particular one might be worth transforming into a class so that the lambda-calculi could also use it? We can discuss this on zulip if you like.)

File: Cslib/Computability/CombinatoryLogic/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,162 @@
...
+
+lemma applyList_concat (f : SKI) (ys : List SKI) (z : SKI) :
+    f.applyList (ys ++ [z]) = f.applyList ys ⬝ z := by
+  simp [applyList]
+
+
+/-! ### Reduction relations between SKI terms -/
+
+/-- Single-step reduction of SKI terms -/
+inductive ReductionStep : SKI → SKI → Prop where
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Defs.lean]: I'd just call this `Reduction`, or `Red`, much like we just call transition relations `tr` (short for Transition).

File: Cslib/Computability/CombinatoryLogic/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,162 @@
...
+  /-- Reduction on the head -/
+  | red_head (x x' y : SKI) (_ : ReductionStep x x') : ReductionStep (x ⬝ y) (x' ⬝ y)
+  /-- and tail of an SKI term. -/
+  | red_tail (x y y' : SKI) (_ : ReductionStep y y') : ReductionStep (x ⬝ y) (x ⬝ y')
+
+/-- Notation for single-step reduction -/
+infix:90 " ⇒ " => ReductionStep
+
+/-- Multi-step reduction of SKI terms -/
+def LargeReduction : SKI → SKI → Prop := Relation.ReflTransGen ReductionStep
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Defs.lean]: Large evokes a big step semantics to me (which is not the case here). How about MultistepReduction? (Like we have `mtr` for transitions.)

Comment (fmontesi) [reply Cslib/Computability/CombinatoryLogic/Defs.lean]: Could also just be MReduction, if you want a short name.

File: Cslib/Computability/CombinatoryLogic/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,162 @@
...
+  largeRed_single _ _ <| red_I _
+
+theorem largeRed_head (a a' b : SKI) (h : a ⇒* a') : (a ⬝ b) ⇒* (a' ⬝ b) := by
+  induction h with
+  | refl => apply largeRed_refl
+  | @tail a' a'' _ ha'' ih =>
+    apply Relation.ReflTransGen.tail (b := a' ⬝ b) ih
+    exact ReductionStep.red_head a' a'' b ha''
+
+theorem largeRed_tail (a b b' : SKI) (h : b ⇒* b') : (a ⬝ b) ⇒* (a ⬝ b') := by
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Defs.lean]: You sometimes write `largeRed` or `largeReduction`. I'm fine with both, we should just pick one and be consistent. Maybe just use the name of the inductive type as is, once that's settled. So if you wanna write `red` in theorems, maybe it's good that the inductive is called `Red`. But I wouldn't be strict about this, an abbreviation is fine.

File: .DS_Store
Comment (fmontesi) [inline .DS_Store:1]: Remove

File: Cslib/.DS_Store
Comment (fmontesi) [inline Cslib/.DS_Store:1]: Remove

File: Cslib/Computability/LambdaCalculus/Untyped/.DS_Store
Comment (fmontesi) [inline Cslib/Computability/LambdaCalculus/Untyped/.DS_Store:1]: Remove

File: Cslib/Computability/CombinatoryLogic/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,388 @@
...
+
+open ReductionStep
+
+/-! ### Polynomials and the bracket astraction algorithm -/
+
+/-- A polynomial is an SKI terms with free variables. -/
+protected inductive Polynomial (n : Nat) : Type _ where
+  | term : SKI → SKI.Polynomial n
+  | var : Fin n → SKI.Polynomial n
+  | ap : SKI.Polynomial n → SKI.Polynomial n → SKI.Polynomial n
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Basic.lean]: Same comment as for SKI, rename to `app`.

File: Cslib/Computability/CombinatoryLogic/Confluence.lean [hunk 11]
```diff
@@ -0,0 +1,247 @@
...
+-/
+
+open SKI ReductionStep
+
+/-- A reduction step allowing simultaneous reduction of disjoint redexes -/
+inductive ParallelReduction : SKI → SKI → Prop
+  /-- Parallel reduction is reflexive, -/
+  | refl (a : SKI) : ParallelReduction a a
+  /-- Contains `ReductionStep`, -/
+  | red_I' (a : SKI) : ParallelReduction (I ⬝ a) a
```
Comment (fmontesi) [inline Cslib/Computability/CombinatoryLogic/Confluence.lean]: Why all the primes (')?

**Review by fmontesi — CHANGES_REQUESTED** [review]

File: Cslib/Computability/CombinatoryLogic/Confluence.lean (hunk 11 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Confluence.lean]: I'm not wedded to it, I put it in to make things explicit for myself, primed to match the notation `\=>'` — will remove if you prefer

File: Cslib/Computability/CombinatoryLogic/Defs.lean (hunk 3 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Defs.lean:38]: It was indented to match [Mathlib style](https://leanprover-community.github.io/contribute/style.html#structuring-definitions-and-theorems), happy to change for consistency if you prefer

Comment (fmontesi) [reply Cslib/Computability/CombinatoryLogic/Defs.lean:38]: Whoops, thanks, it is me who should indent more then. 👀 Do carry on indented.

File: Cslib/Computability/CombinatoryLogic/Defs.lean (hunk 5 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Defs.lean:56]: I used `++` because I believe that's the "simp normal form" — [see here](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Basic.html#List.concat_eq_append) — happy to change though if you'd prefer

Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Defs.lean:56]: though it is a bit weird to call it "concat" in the name I guess

File: Cslib/Computability/CombinatoryLogic/Defs.lean (hunk 9 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Defs.lean]: Yes good call, i've renamed `ReductionStep` to `Red` and `LargeReduction` to `MRed`

File: Cslib/Computability/CombinatoryLogic/Confluence.lean (hunk 11 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Confluence.lean]: Oops I realise I've changed the latter notation anyway, and my thinking was that I'd keep primes to denote polynomial equivalents — I'll remove these primes

File: Cslib/Computability/CombinatoryLogic/Basic.lean (hunk 2 above)
Comment (tristan-f-r) [reply Cslib/Computability/CombinatoryLogic/Basic.lean:66]: Definitions whose last parameter is matched can be shrunk as so:

**Review by tristan-f-r — CHANGES_REQUESTED** [review]
I'll do a golfing review later - here's a small golf tip.

File: Cslib/Computability/CombinatoryLogic/Basic.lean (hunk 2 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Basic.lean]: Thanks!

Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Basic.lean]: Would it be worth moving the polynomial argument to the end of definitions like
```
def Polynomial.eval {n : Nat} (Γ : SKI.Polynomial n) (l : List SKI) (hl : List.length l = n) :
    SKI :=
  match Γ with
```
for the same reason? especially as we can still use `Γ.eval ...`

File: Cslib/Computability/CombinatoryLogic/Defs.lean (hunk 6 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Defs.lean]: Done, thanks

File: Cslib/Computability/CombinatoryLogic/Defs.lean (hunk 4 above)
Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Defs.lean]: Fixed, not sure why I thought it was worth saving one letter there

File: Cslib/Computability/CombinatoryLogic/Defs.lean (hunk 3 above)
Comment (chenson2018) [reply Cslib/Computability/CombinatoryLogic/Defs.lean:38]: If we're going to closely follow the Mathlib style, should we activate their linters? Not sure if this particular formatting would be caught, but it seems nice to catch as much as possible automatically.

Comment (thomaskwaring) [reply Cslib/Computability/CombinatoryLogic/Defs.lean:38]: I ran the Mathlib linters on my files (add `#lint` to the end of the file) — don't know if it looks at naming but it did ask for some extra docstrings

Comment (fmontesi) [reply Cslib/Computability/CombinatoryLogic/Defs.lean:38]: > If we're going to closely follow the Mathlib style, should we activate their linters? Not sure if this particular formatting would be caught, but it seems nice to catch as much as possible automatically.

Agreed. If you know how to do it, a pr to activate mathlib's linters would be great.
